US07253286B2
2-Amino-5-(4-benzyloxyphenyl)-1H-pyrrole-3-carboxylic acid ethyl ester
After adding 700 ml of ethanol to 50.7 g of ethyl 2-amidinoacetate hydrochloride (a publicly known compound described in Liebigs Ann. Chem., 1895 (1977)), the mixture was stirred at room temperature, 22.3 g of sodium ethoxide (1 equivalent with respect to ethyl 2-amidinoacetate hydrochloride) was added, and the mixture was stirred for 15 minutes under a nitrogen atmosphere. To this there was added 49.9 g of 1-(4-benzyloxyphenyl)-2-bromoethanone (publicly known compound described in Journal of Heterocyclic Chemistry, vol.2, 310 (1965) and Journal of Medicinal Chemistry, vol.17, 55 (1974)), and the mixture was stirred for 36 hours at room temperature under a nitrogen atmosphere. Water was added, ethyl acetate was used for liquid separation and extraction, and then the organic layer was dried over sodium sulfate and concentrated to dryness to obtain 56.7 g of the title compound.

reactant | ethanol | 700 ml | C(C)O | C2H6O
reactant | ethyl 2-amidinoacetate hydrochloride | 50.7 g | Cl.C(N)(=N)CC(=O)OCC
reactant | sodium ethoxide | 22.3 g, 1 equivalent | [O-]CC.[Na+]
reactant | 1-(4-benzyloxyphenyl)-2-bromoethanone | 49.9 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CBr)=O | C15H13BrO2
solvent | Water | O | H2O
product | 2-Amino-5-(4-benzyloxyphenyl)-1H-pyrrole-3-carboxylic acid ethyl ester | 56.7 g | C(C)OC(=O)C1=C(NC(=C1)C1=CC=C(C=C1)OCC1=CC=CC=C1)N | C20H20N2O3
